US06486316B1
Part A: Preparation of 2-chloro-4,6-bis(4-methylphenyl)-1,3,5-triazine Using Concentrated HCl
To a stirring mixture of 1 eq of cyanuric chloride and 3 eq of aluminum chloride in o-dichlorobenzene at ice bath temperature was added concentrated HCl (13 wt % based on cyanuric chloride). After 10 minutes, 1.9 eq of toluene was added and the reaction mixture was stirred at ice bath temperature for 30 minutes. The cooling bath was removed, the reaction mixture was allowed to warm to room temperature, and stirred for 21 h. HPLC analysis indicated about 95% cyanuric chloride conversion to 2-chloro-4,6-bis(4-methylphenyl)-1,3,5-triazine and the isomer 2-chloro-4-(4-methylphenyl)-6-(2-methylphenyl)-1,3,5-triazine.

reactant | cyanuric chloride | 1 eq | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | aluminum chloride | 3 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | toluene | 1.9 eq | C1(=CC=CC=C1)C | C7H8
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-chloro-4,6-bis(4-methylphenyl)-1,3,5-triazine | ClC1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C17H14ClN3
